US06211199B1
31.6 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-difluorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (0.48 g, 1.66 mmol) and (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.83 g, 1.66 mmol), and N,N-diisopropylethylamine (0.32 g, 2.49 mmol) in acetonitrile (10 mL). Heat to reflux. After 48 hours, cool and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 2% triethylamine/10% methanol/ethyl acetate to give the title compound: Rf=0.36 (silica gel, 2% triethylamine/10% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-difluorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.66 mmol, 0.48 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)F)F)C=C(C1OC)OC | C23H27F2NO7S
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 1.66 mmol, 0.83 g | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
reactant | N,N-diisopropylethylamine | 2.49 mmol, 0.32 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C38H47F2N5O5
